US08445489B2
6-(3,4,5-Trifluorophenyl)-2H-pyridazin-3-one
20 g of 3,4,5-trifluoroacetophenone are converted into the pyridazinone in accordance with GWP 1.

reactant | 3,4,5-trifluoroacetophenone | 20 g | CC(=O)C1=CC(=C(C(=C1)F)F)F | C8H5F3O
reactant | pyridazinone | N=1NC(C=CC1)=O | C4H4N2O
product | 6-(3,4,5-Trifluorophenyl)-2H-pyridazin-3-one | FC=1C=C(C=C(C1F)F)C=1C=CC(NN1)=O | C10H5F3N2O
